US07745646B2
1-[3-(Cyclopentyloxy)-2-hydroxy-4-methoxyphenyl]ethanone (4.25 g, 17 mmol) was added portionwise to a mixture of sodium hydride (1.4 g, 60%, 35 mmol) and diethyl carbonate (30 mL) at rt under N2. The reaction was refluxed for 1 h and then cooled to rt. 10% Hydrochloric acid (30 mL) was added, and the mixture was stirred for 1 h. The reaction was diluted with water (100 mL) and extracted with ethyl acetate (200 mL×2). The combined extracts were dried, filtered, concentrated, and redissolved in t-butanol (50 mL). Potassium t-butoxide (4.0 g, 36 mmol) was added, and the reaction was refluxed. After 42 h, additional potassium t-butoxide (2.0 g, 18 mmol) was added. After an additional 2 d, the reaction was allowed to cool to rt, concentrated, diluted with 1N HCl (100 mL), and extracted with ethyl acetate (200 mL×2). The combined extracts were dried, filtered, concentrated, and purified by silica gel chromatography (3:2→0:1; hexanes:ethyl acetate) to give 8-(cyclopentyloxy)-4-hydroxy-7-methoxy-2H-chromen-2-one: MS (ESI): 277.1.

reactant | 1-[3-(Cyclopentyloxy)-2-hydroxy-4-methoxyphenyl]ethanone | 17 mmol, 4.25 g | C1(CCCC1)OC=1C(=C(C=CC1OC)C(C)=O)O | C14H18O4
reactant | sodium hydride | 35 mmol, 1.4 g | [H-].[Na+]
reactant | diethyl carbonate | 30 mL | C(OCC)(OCC)=O | C5H10O3
reactant | Hydrochloric acid | 30 mL | Cl | ClH
reactant | Potassium t-butoxide | 36 mmol, 4.0 g | CC(C)([O-])C.[K+]
reactant | potassium t-butoxide | 18 mmol, 2.0 g | CC(C)([O-])C.[K+]
solvent | water | 100 mL | O | H2O
product | 8-(cyclopentyloxy)-4-hydroxy-7-methoxy-2H-chromen-2-one | C1(CCCC1)OC=1C(=CC=C2C(=CC(OC12)=O)O)OC | C15H16O5
